US06538015B1
To a solution of 55 mg of 4-(hydroxymethyl)pyridine in DMF at 0° C. was added 20 mg sodium hydride (60% in oil). To the mixture was added dropwise a solution of 229 mg of 4-bromomethyl-5-(3,5-dichlorophenylthio)-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester in 2 ml of N,N-dimethylformamide. After 15 min water was added and the mixture was extracted with dichloromethane (×3). The combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography using ethyl acetate/iso-hexane for the elution to give 80 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3carboxylic acid ethyl ester as a colourless gum. Mass spectrum (ESI) m/z 480 [M]+.

reactant | 4-(hydroxymethyl)pyridine | 55 mg | OCC1=CC=NC=C1 | C6H7NO
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | 4-bromomethyl-5-(3,5-dichlorophenylthio)-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | 229 mg | C(C)OC(=O)C1=NN(C(=C1CBr)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C16H17BrCl2N2O2S
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3carboxylic acid ethyl ester | 80 mg | C(C)OC(=O)C1=NN(C(=C1CC1=CC=NC=C1)SC1=CC(=CC(=C1)Cl)Cl)C(C)C | C21H21Cl2N3O2S
